US05703239
N-Cyclopropylcarbonyl-4-(6-hydroxy-indan-1-yl)piperidine
A 1M boron tribromide solution (3 mL, 3 mmol) was added at -78 ° C. to a solution of N-cyclopropylcarbonyl-4-(6-methoxy-indan-1-yl)piperidine (0.45 g, 1.5 mmol) in methylene chloride. After stirring for 18 h the reaction was quenched with water. The organic layer was separated and washed with 1N NaOH solution and concentrated in vacuo. The residue was stirred for 18 h with a mixture of methanol and 1N NaOH. The methanol was removed in vacuo and the solution was made acid with 1N HCl. The insolubles were collected by filtration to give 0.15 g product, mp 75°-82° C. Anal. Calc'd for C18H23NO2 ·0.3H2O: C, 74.35%; H, 8.18%; N, 4.82%. Found: C, 74.4%; H, 8.08%; N, 4.74%.

reactant | boron tribromide | 3 mmol, 1M, 3 mL | B(Br)(Br)Br | BBr3
reactant | N-cyclopropylcarbonyl-4-(6-methoxy-indan-1-yl)piperidine | 1.5 mmol, 0.45 g | C1(CC1)C(=O)N1CCC(CC1)C1CCC2=CC=C(C=C12)OC | C19H25NO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-Cyclopropylcarbonyl-4-(6-hydroxy-indan-1-yl)piperidine | 0.15 g | C1(CC1)C(=O)N1CCC(CC1)C1CCC2=CC=C(C=C12)O | C18H23NO2
